US07964607B2
6-[(3S,4S)-4-methyl-1-(quinolin-3-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting quinoline-3-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.86 (d, J=2.1 Hz, 1H), 8.27 (d, J=1.7 Hz, 1H), 8.08-8.06 (m, 1H), 8.03 (s, 1H), 7.90-7.57 (m, 1H), 7.70-7.66 (m, 1H), 7.56-7.52 (m, 1H), 4.83-4.75 (m, 1H), 4.11-4.07 (m, 2H), 4.02-3.99 (m, 1H), 3.85-3.82 (m, 1H), 3.60-3.53 (m, 2H), 3.33 (t, J=8.3 Hz, 1H), 3.05 (d, J=9.9 Hz, 1H), 2.87-2.85 (m, 1H), 2.68-2.60 (m, 1H), 2.53-2.40 (m, 1H), 2.38-2.29 (m, 2H), 2.05 (m, 1H), 1.90-1.84 (m, 2H), 1.19 (d, J=6.6 Hz, 3H). MS: (M+H m/z 445.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | quinoline-3-carbaldehyde | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
product | 6-[(3S,4S)-4-methyl-1-(quinolin-3-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC2=CC=CC=C2C1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C25H28N6O2
